US09334290B2
A mixture of 3-bromo-2-chloroaniline [prepared according to the procedure described in U.S. Pat. No. 8,242,260] (600 mg, 2.91 mmol) and toluene (10 mL) was cooled to 0° C. and slowly treated with 2 M trimethylaluminum in toluene (2.47 mL, 4.94 mmol). The mixture was allowed to warm to room temperature and stirred for 15 min. The mixture was treated with 8-fluoro-1H-benzo[d][1,3]oxazine-2,4-dione (684 mg, 3.78 mmol) and heated at 50° C. for 16 h. The mixture was cooled to 0° C. and treated dropwise with 1M aqueous HCl until gas evolution stopped, and stirred for 2 h while allowing to warm to room temperature. The mixture was extracted three times with EtOAc. The combined organic phases were washed sequentially with saturated aqueous NaHCO3 and brine, dried and concentrated. The residue was purified by column chromatography on silica gel (24 g), eluting with EtOAc-hexanes (gradient from 0-30%), to provide 2-amino-N-(3-bromo-2-chlorophenyl)-3-fluorobenzamide as a pale yellow solid (350 mg, 35% yield). Mass spectrum m/z 343, 345 (M+H)+. 1H NMR (400 MHz, chloroform-d) δ 8.46 (dd, J=8.4, 1.3 Hz, 1H), 8.42 (br. s., 1H), 7.43 (dd, J=8.0, 1.4 Hz, 1H), 7.34 (d, J=8.1 Hz, 1H), 7.22 (t, J=8.3 Hz, 1H), 7.15 (ddd, J=11.0, 8.0, 1.2 Hz, 1H), 6.69 (td, J=8.0, 5.1 Hz, 1H), 5.72 (br. s., 2H).

reactant | 3-bromo-2-chloroaniline | BrC=1C(=C(N)C=CC1)Cl | C6H5BrClN
reactant | trimethylaluminum | 2 M | C[Al](C)C
reactant | 8-fluoro-1H-benzo[d][1,3]oxazine-2,4-dione | 3.78 mmol, 684 mg | FC1=CC=CC2=C1NC(OC2=O)=O | C8H4FNO3
reactant | HCl | 1M | Cl | ClH
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 4.94 mmol, 2.47 mL | C1(=CC=CC=C1)C | C7H8
product | 2-amino-N-(3-bromo-2-chlorophenyl)-3-fluorobenzamide | 350 mg, 35% yield | NC1=C(C(=O)NC2=C(C(=CC=C2)Br)Cl)C=CC=C1F | C13H9BrClFN2O
